2133-01-12 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -RIJ placed
   -lasix drip
   -CVP 17
 MULTI LUMEN - START [**2133-1-11**] 10:57 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2133-1-11**] 11:57 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-12**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 99 (81 - 99) bpm
   BP: 111/62(74) {93/42(51) - 112/64(101)} mmHg
   RR: 25 (22 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 15 (15 - 17)mmHg
   Total In:
                                                                  1,601 mL
                                                                     87 mL
   PO:
   TF:
   IVF:
                                                                    101 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    930 mL
   Urine:
                                                                    470 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,131 mL
                                                                   -843 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : 1/2 up bilaterally, Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, RUE weaker than
   LUE
   Labs / Radiology
   191 K/uL
   10.3 g/dL
   95 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   33 mg/dL
   105 mEq/L
   137 mEq/L
   31.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2133-1-12**]  02:03 AM
   WBC
   5.2
   Hct
   31.0
   Plt
   191
   Cr
   1.4
   TropT
   0.02
   Glucose
   95
   Other labs: PT / PTT / INR:20.3/37.5/1.9, CK / CKMB /
   Troponin-T:136/3/0.02, Albumin:3.5 g/dL, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   # Dyspnea: Given the gradual worsening of his DOE and SOB over [**5-18**]
   months time, I feel that his underlying SOB is [**1-12**] worsening AS as well
   as CHF. His BNP is markedly elevated above last month (8462 today, 3822
   [**12-19**]). Unfortunately, we do not have recent EF information. There may
   be a component of PNA on top of this (given fever to 102 and dry
   cough); however, his CXR is not particularly impressive for infiltrate.
   Although he is wheezy on exam and COPD exacerbation +/- bronchitis are
   on the differential, I feel that this is less likely. His wheezes are
   more likely cardiogenic.  PE remains on the differential; however, no
   clinical signs of pleuritic chest pain or DVT
   - would treat empirically for PNA with Vanc/Zosyn. Low suspicion for
   atypical pna
   - check urine legionella, but would not cover for now
   - lasix gtt tonight with goal I/O 1L tonight as tolerated by BP (he may
   need pressors to diurese)
   - nebs as needed, advair
   - needs echo in AM
   - cards consult in AM (email Dr. [**Last Name (STitle) **] in AM)
   - d/w pulmonary (Dr. [**Last Name (STitle) 712**]
   - guaifen and tessalon perles for cough
   .
   # Hypotension: Baseline BP in 110's and today has been more hypotensive
   than baseline. He has had one temp to 102 and concern for sepsis given
   minimal improvement with 1.5L NS. He has had no new changes in BP meds
   recently. Per his wife, he is 5 pounds down today compared to
   yesterday, so intravascular depletion is also possible. Low clinical
   suspicion for ACS
   - hold on further IVF for now given pulm edema
   - continue to monitor with goal MAP>60
   - if persistantly hypotensive, would start pressors and use levophed if
   needed for diuresis as above
   - CVL placed in RIJ
   .
   # ARF: Per wife, recently 1.3 at OSH a few weeks ago. Likely
   intravascularly dry but total body overloaded or [**1-12**] poor forward flow
   - trend creatinine
   - urine lytes
   .
   # AS: from rheumatic heart disease. Echo in [**Hospital1 **] last year with moderate
   AS (1-1.2 cm), EF 55%
   - repeat echo in AM
   - would avoid nitrates and venodilators as he is preload dependent
   - d/w cards
   .
   # CAD: No clinical signs today of ACS.
   - continue statin
   - hold BP meds for now, but consider restarting ACEI to reduce
   afterload before BB
   - clarify with cards why no ASA!
   .
   # Afib on coumadin:
   - holding BB for now given BP
   - continue coumadin
   .
   # Emphysema/asbestos exposure:
   - continue nebs
   - continue advair
   - d/w pulmonary in AM
   .
   # Recent GIB: unclear etiology, Per wife, nl EGD at OSH
   - guaiac all stools
   - H2 blocker for now
   - transfuse for Hct <21
   .
   # CVA:
   - on coumadin
   - ? why not on ASA for 2dary ppx for stroke
   .
   # FEN:
   - hold IVF for now
   - replete electrolytes
   - regular diet
   .
   # Prophylaxis:
   - on coumadin
   - bowel PRN
   - H2 blocker in ICU
   .
   # Access:
   - place 2 peripherals
   - RIJ
   .
   # Code: FULL CODE
   .
   # Communication: Patient
   HCP: wife [**Name (NI) 228**] [**Telephone/Fax (1) 4380**]
   .
   # Disposition: ICU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-1-11**] 07:54 PM
   Multi Lumen - [**2133-1-11**] 10:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-01-13 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-12**] events:
   - started on steroids and azith for COPD exacerbation
   - ECHO: AS valve area 1cm2, AI unchanged, MS unchanged, moderate MR,
   mod pulm HTN @50mmHg, inferior wall hypokinesis c/w prior MI, EF 50%)
   - oozing from RIJ site and around foley (no hematuria), held coumadin
   and recheck INR in the AM
   - FSBS (after steroids) 170 (4PM), 290 (10PM), started on SSI Humalog
   - 2L neg on lasix gtt, stopped [**1-12**] SBP 80-90s
   - given 250cc NS bolus x2 for MAP 58-62
 NON-INVASIVE VENTILATION - START [**2133-1-12**] 09:10 AM
 TRANSTHORACIC ECHO - At [**2133-1-12**] 02:00 PM
 URINE CULTURE - At [**2133-1-12**] 03:00 PM
   urine for legionella
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2133-1-11**] 11:57 PM
   Azithromycin - [**2133-1-12**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-12**] 04:00 PM
   Vancomycin - [**2133-1-12**] 08:18 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-13**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36
C (96.8
   HR: 99 (75 - 100) bpm
   BP: 95/69(72) {80/32(51) - 117/69(72)} mmHg
   RR: 28 (22 - 37) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 12 (7 - 17)mmHg
   Total In:
                                                                  1,685 mL
                                                                    637 mL
   PO:
                                                                    580 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,105 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    540 mL
   Urine:
                                                                  3,190 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,505 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 8 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.47/32/94.[**Numeric Identifier 299**]/24/0
   PaO2 / FiO2: 235
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   10.3 g/dL
   140 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.1 mEq/L
   36 mg/dL
   104 mEq/L
   136 mEq/L
   30.8 %
   3.1 K/uL
        [image002.jpg]
                             [**2133-1-12**]  02:03 AM
                             [**2133-1-12**]  09:06 AM
                             [**2133-1-12**]  02:55 PM
                             [**2133-1-12**]  11:00 PM
                             [**2133-1-13**]  03:16 AM
   WBC
   5.2
   3.1
   Hct
   31.0
   30.8
   Plt
   191
   180
   Cr
   1.4
   1.3
   1.3
   1.4
   TropT
   0.02
   TCO2
   24
   Glucose
   95
   131
   156
   140
   Other labs: PT / PTT / INR:20.8/32.6/2.0, CK / CKMB /
   Troponin-T:136/3/0.02, Albumin:3.5 g/dL, Ca++:8.5 mg/dL, Mg++:2.5
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   # Dyspnea: Given the gradual worsening of his DOE and SOB over [**5-18**]
   months time, I feel that his underlying SOB is [**1-12**] worsening AS as well
   as CHF. His BNP is markedly elevated above last month (8462 today, 3822
   [**12-19**]). Unfortunately, we do not have recent EF information. There may
   be a component of PNA on top of this (given fever to 102 and dry
   cough); however, his CXR is not particularly impressive for infiltrate.
   Although he is wheezy on exam and COPD exacerbation +/- bronchitis are
   on the differential, I feel that this is less likely. His wheezes are
   more likely cardiogenic.  PE remains on the differential; however, no
   clinical signs of pleuritic chest pain or DVT
   - would treat empirically for PNA with Vanc/Zosyn. Low suspicion for
   atypical pna
   - f/u urine legionella
   - lasix gtt titrate to BP with goal 1-2L neg
   - Azithromycin and solumedrol for COPD exacerbation
   - f/u ECHO this AM
   - f/u cards recs
   - d/w pulmonary (Dr. [**Last Name (STitle) 712**]
   - guaifen and tessalon perles for cough
   .
   # Hypotension: Baseline BP in 110's and today has been more hypotensive
   than baseline. He has had one temp to 102 and   could be concerning for
   sepsis. He has had no new changes in BP meds recently. Per his wife, he
   has recently lost 5 pounds, so intravascular depletion is also
   possible. Low clinical suspicion for ACS.
   - hold on further IVF for now given pulm edema
   - continue to monitor diuresis with goal MAP>60
   - if persistantly hypotensive, would start pressors and use levophed if
   needed for diuresis as above
   - CVL placed in RIJ
   .
   #CRF: Per wife, recently 1.3 at OSH a few weeks ago. Likely
   intravascularly dry but total body overloaded or [**1-12**] poor forward flow
   - trend creatinine
   - urine/serum  lytes
   .
   # AS: from rheumatic heart disease. Echo in [**Hospital1 **] last year with moderate
   AS (1-1.2 cm), EF 55%
   - repeat echo in AM
   - would avoid nitrates and venodilators as he is preload dependent
   - d/w cards
   .
   # CAD: No clinical signs today of ACS.
   - continue statin
   - hold BP meds for now, but consider restarting ACEI to reduce
   afterload before BB
   - clarify with cards why no ASA!
   .
   # Afib on coumadin:
   - esmolol gtt for HR  120 (increase time for diastolic filling)
   - continue coumadin
   .
   # Emphysema/asbestos exposure:
   - continue nebs
   - continue advair
   - d/w pulmonary in AM
   .
   # Recent GIB: unclear etiology, Per wife, nl EGD at OSH
   - guaiac all stools
   - H2 blocker for now
   - transfuse for Hct <21
   .
   # CVA:
   - ? why not on ASA for 2dary ppx for stroke
   .
   # FEN:
   - hold IVF for now
   - replete electrolytes
   - regular diet
   .
   # Prophylaxis:
   - on coumadin
   - bowel PRN
   - H2 blocker in ICU
   .
   # Access:
   - place 2 peripherals
   - RIJ
   .
   # Code: FULL CODE
   .
   # Communication: Patient
   HCP: wife [**Name (NI) 228**] [**Telephone/Fax (1) 4380**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-1-11**] 07:54 PM
   Multi Lumen - [**2133-1-11**] 10:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-01-14 06:48:00 Physician Resident Progress Note
Chief Complaint:
   Patient says that the cough is improving
   24 Hour Events:
   [**Date range (1) 4432**] Overnight Events:
   - around 3pm, patient developed dysuria, UA was done which did not show
   any signs of infection and the patient was started on pyridium for 3
   days
   - around 3pm, urine output was poor and the patient was placed on CPAP
   to increase pressures and reduce pulm edema
   - around 2am, lasix drip was reduced from 5cc/hr to 2.5 cc/hr, and off
   at 5 am because of hypotension and ARF
   - patient was given 40meq of K at 5:30am
   - patient had not been written for coumadin for afib because of
   antibiotic interaction, INR 1.9, home dose restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2133-1-12**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-12**] 04:00 PM
   Piperacillin - [**2133-1-13**] 08:12 AM
   Vancomycin - [**2133-1-13**] 08:13 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-1-13**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-14**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 70 (70 - 112) bpm
   BP: 115/60(71) {78/43(52) - 128/84(94)} mmHg
   RR: 21 (19 - 95) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 15 (11 - 22)mmHg
   Total In:
                                                                  1,366 mL
                                                                     55 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                    466 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                  1,000 mL
   Urine:
                                                                  1,630 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -264 mL
                                                                   -945 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 239 (239 - 239) mL
   PS : 8 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 9 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : 1/2 up bilaterally, Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, RUE weaker than
   LUE
   Labs / Radiology
   181 K/uL
   9.7 g/dL
   156 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   45 mg/dL
   104 mEq/L
   138 mEq/L
   29.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2133-1-12**]  02:03 AM
                             [**2133-1-12**]  09:06 AM
                             [**2133-1-12**]  02:55 PM
                             [**2133-1-12**]  11:00 PM
                             [**2133-1-13**]  03:16 AM
                             [**2133-1-14**]  03:21 AM
   WBC
   5.2
   3.1
   9.3
   Hct
   31.0
   30.8
   29.7
   Plt
   191
   180
   181
   Cr
   1.4
   1.3
   1.3
   1.4
   1.5
   TropT
   0.02
   TCO2
   24
   Glucose
   95
   131
   156
   140
   156
   Other labs: PT / PTT / INR:20.4/30.0/1.9, CK / CKMB /
   Troponin-T:136/3/0.02, Albumin:3.5 g/dL, Ca++:8.4 mg/dL, Mg++:2.4
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 Pt is a 73 yo M c dyspnea and O2 requirement [**1-12**] worsening AS and
   resultant CHF and COPD AE. Vol sensitive hypotension on lasix ggt.
   # Dyspnea: Given the gradual worsening of his DOE and SOB over [**5-18**]
   months time, I feel that his underlying SOB is [**1-12**] worsening AS as well
   as CHF. His BNP is markedly elevated above last month (8462 today, 3822
   [**12-19**]). Although he is wheezy on exam and COPD exacerbation +/-
   bronchitis are on the differential, I feel that this is less likely.
   His wheezes are more likely cardiogenic. Stopped Vanc/Zosyn bc no
   evidence of PNA. Significant element of pulmonary edema.
   - lasix gtt titrate to BP with goal 1-2L neg for pulm edema (no lasix
   bolus bc of sensitivity and concern for HoTN)
   - cont nebs of advair, ipratropium, albuterol
   - Azithromycin and steriods for COPD exacerbation
   - tapering steroids now Prednisone 60mg PO daily
   - guaifen and tessalon perles for cough, cough syrup with codeine at
   night for cough
   - there appears to be an element of anxiety with the cough, starting
   Ativan 0.5 mg PO TID and floor team to consider long acting
   anxietolytic at the time of discharge
   .
   # dCHF / AS
 [**1-12**] rheumatic heart disease. elevated BNP and EF 50% with
   interval worsening of AS (1.0 cm2), mild AR/MR, new pHTN
   - vol dependent cardiac status bc moderate AS
   - f/u cards recs
   .
   # Hypotension: Baseline BP in 110's and today has been more hypotensive
   than baseline. He has had one temp to 102 and   could be concerning for
   sepsis. He has had no new changes in BP meds recently. Per his wife, he
   has recently lost 5 pounds, so intravascular depletion is also
   possible. Low clinical suspicion for ACS.
   - hold on further IVF for now given pulm edema
   - continue to monitor diuresis with goal MAP>60
   - if persistantly hypotensive, would start pressors and use levophed if
   needed for diuresis as above
   - CVL placed in RIJ, will discuss with c-med service if they want the
   patient to go to the floor with the line
   # Acute on CRF: Per wife, recently 1.3 at OSH a few weeks ago. Likely
   intravascularly dry but total body overloaded or [**1-12**] poor forward flow.
   Cr now 1.5 and worsening BUN in the setting of lasix drip.
   - trend creatinine
   - urine/serum  lytes
   - d/c lasix drip, c-med service to consider restarting once ARF
   resolves
   - since no longer on lasix drip, d/c foley
   .
   # CAD: No clinical signs today of ACS.
   - continue statin
   - hold BP meds for now, but consider restarting ACEI to reduce
   afterload before BB
   - started ASA 81mg PO daily
   .
   # Afib on coumadin:
   - continue coumadin
   .
   # Emphysema/asbestos exposure:
   - continue nebs
   - continue advair
   - d/w pulmonary in AM
   .
   # Recent GIB: unclear etiology, Per wife, nl EGD at OSH
   - guaiac all stools
   - H2 blocker for now
   - transfuse for Hct <21
   .
   # CVA:
   - ? why not on ASA for 2dary ppx for stroke
   .
   # FEN:
   - hold IVF for now
   - replete electrolytes
   - regular diet
   .
   # Prophylaxis:
   - on coumadin
   - bowel PRN
   - H2 blocker in ICU
   .
   # Access:
   - place 2 peripherals
   - RIJ
   .
   # Code: FULL CODE
   .
   # Communication: Patient
   HCP: wife [**Name (NI) 228**] [**Telephone/Fax (1) 4380**]
   .
   # Disposition: callout to C-med for AS mgt, no evidence of PNA, pulm sx
   [**1-12**] pulm edema from AS/CHF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-1-11**] 07:54 PM
   Multi Lumen - [**2133-1-11**] 10:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: